Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
pelvic pain 
 
Major Surgical or Invasive Procedure:
Robotic assisted Total Laparoscopic Hysterectomy
Bilateral salpingectomy
Cystoscopy

 
History of Present Illness:
Ms. ___ is  a lovely ___ yo G0 with no desire for fertility and 
a long history of pelvic pain refractory to attempts at control 
to date with hormonal methods (expelled Mirena IUD, mood 
disturbance on progesterone).

Although ___ initially responded well to IUD it was 
spontaneously expelled despite normal uterus.  She notes 
irregular menses, extremely heavy with significant pain although 
no pain with bowel movement or urination.

Her path from recent DC notes disordered proliferative 
endometrium.

She has a PMH sig for PID, GERD, pre-DM (HbA1C sent today), HLD, 
OSA, migraine with aura (preventing use of OCP), biopolar 
disease and panic attacks.

She presents in consultation regarding surgical management of 
same.
 
Past Medical History:
OBSTETRICAL HISTORY: G0

GYNECOLOGICAL HISTORY: pap neg ___
___ disordered proliferative 

PAST MEDICAL HISTORY:
Problems (Last Verified ___ by ___, NP):
SLEEP APNEA                                                     
ARM PAIN                                                        
PRE-DIABETES                                                    
OBESITY                                                         
DEPRESSION                                                      
ANXIETY                                                         
MIGRAINE HEADACHES                                              
BIPOLAR
HLD
GERD

PAST SURGICAL HISTORY:
HSC polypectomy DC
apy
tonsils

 
Social History:
___
Family History:
paternal cousin with uterine cancer - no colonic disease
 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP

 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing a Robotic assisted Total Laparoscopic 
Hysterectomy, Bilateral salpingectomy, and Cystoscopy for the 
treatment of pelvic pain, dysmenorrhea refractory to multiple 
medical methods of control, and disordered proliferative 
endometrium on curretage. Please see the operative report for 
full details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV Dilaudid. 

On post-operative day 1, her urine output was adequate so her 
foley was removed and she voided spontaneously with a post void 
residual of 0cc. Her diet was advanced without difficulty and 
she was transitioned to oxycodone/ibuprofen/acetaminophen. 

By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
Medications - Prescription
LAMOTRIGINE [LAMICTAL] - Lamictal 200 mg tablet. tablet(s) by
mouth daily -  (Prescribed by Other Provider)
OMEPRAZOLE - omeprazole 40 mg capsule,delayed release. 1
capsule(s) by mouth daily -  (Prescribed by Other Provider)
PROPRANOLOL [INDERAL XL] - Inderal XL 80 mg capsule,extended
release. capsule(s) by mouth  -  (Prescribed by Other Provider)
SERTRALINE [ZOLOFT] - Zoloft 100 mg tablet. 1 tablet(s) by mouth
daily -  (Prescribed by Other Provider) (Not Taking as
Prescribed: dose increased to 125mg)Entered by MA/Other Staff
SUMATRIPTAN SUCCINATE [IMITREX] - Dosage uncertain -  
(Prescribed
by Other Provider)
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
Do not exceed more than 4g acetaminophen in 24 hours  
RX *acetaminophen 500 mg ___ tablet(s) by mouth q6h prn Disp 
#*30 Tablet Refills:*1
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
3. Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
Take with food  
RX *ibuprofen 600 mg 1 tablet(s) by mouth q6h prn Disp #*30 
Tablet Refills:*1
4. LamoTRIgine 200 mg PO DAILY 
5. Omeprazole 40 mg PO DAILY 
6. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
Do not drive or drink alcohol while taking medication  
RX *oxycodone 5 mg ___ tablet(s) by mouth q4h prn Disp #*30 
Tablet Refills:*0
7. Sertraline 125 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pelvic pain, dysmenorrhea refractory to multiple medical methods 
of control, and disordered proliferative endometrium on 
curretage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 8 
weeks.

* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___